US07258941B2
Bis(4-fluorophenyl) sulfone (51.4 g), 25 g of bis(4-hydroxyphenyl) sulfone, 18.9 g of 4,4′-biphenol, and 36 g of potassium carbonate were put in, and 300 ml of N,N-dimethylacetamide and 200 ml of toluene were added thereto. The mixture was heated up to 165° C. with stirring in a nitrogen stream while removing produced water together with toluene, and the stirring was continued for 3 hours at that temperature. The solution was poured into a large amount of water to precipitate a white solid, which was collected by filtration. The solid thus obtained was washed twice in hot water and once in methanol and dried under reduced pressure to give random copolymer RP-1. The resulting polymer had a reduced viscosity ηsp/c of 0.55.

reactant | Bis(4-fluorophenyl) sulfone | 51.4 g | FC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)F | C12H8F2O2S
reactant | bis(4-hydroxyphenyl) sulfone | 25 g | OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)O | C12H10O4S
reactant | 4,4′-biphenol | 18.9 g | C1(=CC=C(C=C1)C1=CC=C(C=C1)O)O | C12H10O2
reactant | potassium carbonate | 36 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | N,N-dimethylacetamide | 300 ml | CN(C(C)=O)C | C4H9NO
product | RP-1 | COC(=O)C1CC=CCC1C(=O)OC | C10H14O4
